Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Morphine
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ y.o.m. with h/o Crohn's disease
s/p small bowel resections and recent development of fistulizing
disease s/p fistulotomy, drainage of abscess, and ___ 
placement
(___), who presents with abdominal pain.  One day PTA he
developed abdominal pain in the periumbilical area associated
with nausea and one episde of vomiting. He has no melena or
hematochezia.  He denies fevers, chills, rectal pain, syncope.
 
Past Medical History:
Crohn's (Dx in ___ Remicaid in ___, underwent SB 
resection x 2 and stricturoplasty x 2 in ___ (Dr. ___, 
then maintained on ___ and pentasa.  Represented ___ with
fistulizing disease. B12 deficiency

 
Social History:
___
Family History:
Father with IBS, ___ with lung cancer, MGM with breast cancer
 
Physical Exam:
On Admission
T 97.8, HR 96, BP 129/77, RR 18, 100% on RA
Gen: NAD, A&O
HEENT: NC/AT , no scleral icterus, no cervical lymphadenopathy
RESP: CTAB
ABD: Soft, mild left abdominal pain, mildly distended, giuac 
positive with ___ stents in place
 
Pertinent Results:
Radiology Report CT PELVIS W/CONTRAST Study Date of ___ 
4:23 ___ 
IMPRESSION: 1. Small bowel obstruction secondary to acute 
Crohn's flare in the mid-jejunum. Enlarged mesenteric lymph 
nodes again appreciated. 
2. Perianal fistula and small collection with ___ drains in 
place. 

Radiology Report UNILAT LOWER EXT VEINS LEFT Study Date of 
___ 10:35 ___. No DVT of the left leg. Limited grayscale 
imaging of the left medial ankle demonstrates normal venous 
compressibility 
 
Brief Hospital Course:
In the ED a CT abd/pelvis was performed and showed SBO in the 
mid-jejunum, enlarged mesenteric LNs, perianal fistula and small 
collection with ___ drains in place.  He refused to have an NG 
tube in the ED, but he had a large volume bilious vomiting. He 
was admitted to the surgical service and was made NPO, IVFs.  
The gastroenterology service was consulted and made 
recommendations for his care during his hospital course. The pt 
was started on IV Solumedrol and mesalamine as well as 
antibiotics (Cipro and flagyl). The pt improved clinically, pain 
was controlled with PO narcotics and a diet was begun as 
symptomatology improved. Pt was slowly advanced to a regular 
diet and continued on steroids and antibiotics. Pt began to have 
bowel movements and by ___ was tolerating a regular diet, 
having bowel movements and pain was well controlled. Pt was 
discharged home on PO prednisone to be tapered after his 
follow-up appointment with his gastroenterologist. 

 
Medications on Admission:
vicodin, colace, pentasa 2g"
 
Discharge Medications:
1. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day.
Disp:*60 Capsule(s)* Refills:*2*
2. Hydromorphone 2 mg Tablet Sig: ___ Tablets PO Q4H (every 4 
hours) as needed for pain.
Disp:*35 Tablet(s)* Refills:*0*
3. Pentasa 500 mg Capsule, Sustained Release Sig: Four (4) 
Capsule, Sustained Release PO twice a day.
Disp:*240 Capsule, Sustained Release(s)* Refills:*2*
4. Prednisone 20 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).
Disp:*90 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Small Bowel Obstruction
Crohn's Disease
 
Discharge Condition:
Good

 
Discharge Instructions:
Please call your surgeon if you develop chest pain, shortness of 
breath, fever greater than 101.5, severe abdominal pain or 
distention, persistent nausea or vomiting, inability to eat or 
drink, or any other symptoms which are concerning to you.

Medications: Pain medication may make you drowsy. No driving 
while taking pain medicine.

 
Followup Instructions:
___